Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Pre-syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man
with a history of T2DM and Factor V Leiden on warfarin (INR 1.8
on ___, who presents with presyncope, nausea, and vomiting.

The patient was standing in the heat at ___ when he developed
lightheadedness and was taken to first-aid. There, he had an
episode of non-bloody emesis, felt lightheaded, and was
diaphoretic. He was taken to ___ for evaluation. Review of
systems otherwise negative.

In the ED, initial VS were: T 98.2, HR 89, BP 98/67, RR 22, O2
sat 89% RA

Exam notable for:
Diaphoretic
Initially appears cyanotic on exam, however this appears to be
dye from new blue T-shirt
Hypoxic to 89% on RA
Clear lungs

ECG: sinus rhythm, normal rate, no ST segment or T wave changes

Labs showed: WBC 9.6, Hgb 15.5, Cr 2.1, troponin 0.03--><0.01,
CK-MB 5, lactate 4.2-->2.8, INR 1.9, UA w/ few bacteria

Imaging showed: CXR- AP upright and lateral views of the chest
provided. Low lung volumes. No gross signs for pneumonia or
edema. No large effusion or pneumothorax. Heart appears grossly
within normal limits. Mediastinal contour is normal. Imaged bony
structures are intact.
Consults: None

Patient received: 1L NS bolus and maintenance NS at 100cc/hr

In the ED, the patient was initially hypoxic to the high ___ on
room air. This resolved over a short period of time. The patient
was given IV fluids and admitted for concern for possible PE and
troponin leak.

Transfer VS were: HR 67, BP 160/90, RR 16, O2 sat 97% RA

On arrival to the floor, the patient states he was at ___
watching his cousin (an ___ for the ___ play. He was in the standing room only seats in the
sun. As the game went on he began to feel "groggy". As a result,
he began to leave with his family. On their way out, they found 
a
shady area where he sat down. A passerby checked his FSG and it
was 188. At that point, he continued to feel groggy and was then
transported to ___. On the ambulance ride there, the patient
became nauseous and vomited. Of note, the patient has had car
sickness multiple times in the past.

Currently, the patient feels back at his baseline. He does not
report fevers, chills, chest pain, shortness of breath, nausea,
vomiting, abdominal pain, and changes in bowel or bladder 
habits.

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI

 
Past Medical History:
T2DM
Factor V ___ c/b DVT in ___
HTN
Hypertriglyceridemia

 
Social History:
___
Family History:
Two daughters with factor V Leiden.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.4 ___
GENERAL: NAD, pleasant, comfortable
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, nl S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM: 
VS: 98.0 PO| 128 / 81| 95 |18 |95 Ra  
GENERAL: NAD, pleasant, comfortable
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, nl S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
SKIN: Skin type III. Occassional brown stuck on papules 
consisten with seborrheick keratoses. Skin is warm and well 
perfused, no excoriations or lesions, no rashes
 
Pertinent Results:
LABS:

___ 03:30PM BLOOD WBC-9.6 RBC-5.31 Hgb-15.5 Hct-46.6 MCV-88 
MCH-29.2 MCHC-33.3 RDW-13.3 RDWSD-42.5 Plt ___
___ 06:20AM BLOOD WBC-8.7 RBC-4.54* Hgb-13.6* Hct-39.8* 
MCV-88 MCH-30.0 MCHC-34.2 RDW-13.4 RDWSD-43.1 Plt ___
___ 03:30PM BLOOD Neuts-54.3 ___ Monos-8.8 Eos-1.1 
Baso-0.5 Im ___ AbsNeut-5.19 AbsLymp-3.34 AbsMono-0.84* 
AbsEos-0.11 AbsBaso-0.05
___ 04:38PM BLOOD ___ PTT-29.3 ___
___ 06:20AM BLOOD ___ PTT-27.2 ___
___ 03:30PM BLOOD Glucose-185* UreaN-23* Creat-2.1* Na-145 
K-4.1 Cl-102 HCO3-25 AnGap-18
___ 06:20AM BLOOD Glucose-148* UreaN-19 Creat-1.3* Na-141 
K-3.6 Cl-100 HCO3-28 AnGap-13
___ 03:30PM BLOOD CK(CPK)-117
___ 03:30PM BLOOD cTropnT-0.03*
___ 09:30PM BLOOD CK-MB-4 cTropnT-<0.01
___ 06:20AM BLOOD Calcium-9.4 Phos-3.3 Mg-1.8
___ 03:40PM BLOOD Lactate-4.2*
___ 06:56PM BLOOD Lactate-2.8*

IMAGING: 

CXR ___
FINDINGS:  
  
AP upright and lateral views of the chest provided.  Low lung 
volumes.  No 
gross signs for pneumonia or edema.  No large effusion or 
pneumothorax.  Heart appears grossly within normal limits.  
Mediastinal contour is normal.  Imaged bony structures are 
intact. 
  
IMPRESSION:  
  
Limited, negative. 

 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of T2DM and 
Factor V Leiden on warfarin(INR 1.8 on ___, who presents 
with presyncope, nausea, and vomiting, likely in the setting of 
dehydration, admitted for further monitoring.

ACUTE ISSUES:
===============
#Presyncope
#Nausea/vomiting: 
The underlying etiology of the patient's presyncope given the 
heat outside, nausea, and vomiting, is volume depletion and 
dehydration. The patient initially had a
lactate of 4.2 that subsequently downtrended to 2.8 after 1L of 
NS and maintenance NS. The patient returned to baseline and was 
without symptoms. 

___: 
The patient had a creatinine of 2.1 in the ED (baseline 1.1). 
Given pre-syncope, nausea, and vomiting, most likely pre-renal 
in etiology. Given T2DM it is possible there is some degree of 
diabetic nephropathy at baseline. Creatinine down-trended to 1.3 
after IV fluids. 

#Hypoxemia:
The patient was initially hypoxemic to 89% on RA when in the ED. 
This improved with 2L NC and he was able to be weaned off 
rapidly. For the remainder of the admission he continued to have 
oxygen saturation in mid ___ on room air. The most etiology of 
this patient's mild hypoxemia is likely aspiration in the 
setting of vomiting. The patient does have factor V Leiden, he 
is on warfarin and is borderline therapeutic (INR 1.9). Deferred 
PE workup for now given Well's score of 1.5 and normalization of 
hypoxemia. Continue home warfarin 5mg MTuWFSa, 7.5mg ___. 

#Elevated troponin: 
The patient had a mildly elevated troponin to 0.03 with an MB of 
5. This was in the setting of ___ with a creatinine of 2.1, 
making this difficult to interpret. His
troponin normalized on his next check 6 hours later (<0.01). 
Given co-morbidities, patient can get outpatient exercise stress 
test. 

CHRONIC ISSUES:
===============
#T2DM
- continue home insulin 

#HTN
- continue home amlodipine and HCTZ
- held lisinopril in setting ___

#Hypertriglyceridemia
- continue home atorvastatin and fenofibrate (unclear 
fenofibrate
dose)

TRANSITIONAL ISSUES
============================
[] should consider stress test as outpatient given mild 
troponemia 
[] should have repeat Cr - if not normalized could have workup 
for kidney disease 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Lisinopril 40 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. amLODIPine 10 mg PO DAILY 
6. Warfarin 5 mg PO 4X/WEEK (___) 
7. Warfarin 7.5 mg PO 2X/WEEK (___) 
8. Glargine Unknown Dose
Insulin SC Sliding Scale using HUM Insulin
9. Fenofibrate Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Fenofibrate 48 mg PO DAILY  
2.  Glargine 50 Units Bedtime
Humalog 28 Units Breakfast
Humalog 28 Units Lunch
Humalog 28 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
3.  amLODIPine 10 mg PO DAILY  
4.  Atorvastatin 10 mg PO QPM  
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  Lisinopril 40 mg PO DAILY  
7.  MetFORMIN (Glucophage) 1000 mg PO BID  
8.  Warfarin 5 mg PO 4X/WEEK (___)  
9.  Warfarin 7.5 mg PO 2X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Presyncope
Acute kidney injury
Type 2 Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital because you were feeling 
lightheaded after standing in the heat at a baseball game. You 
were having some nausea and vomiting during the ambulence ride. 

At the hospital you were given IV fluids. You soon felt better 
and you were monitored overnight. 

When you leave the hospital, please follow up with your primary 
care doctor. Please continue to take all of your medications. 

It was a pleasure caring for you!

Sincerely, 
Your ___ Treatment Team 
 
Followup Instructions:
___